US04740513
6-(4-Iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone
n-Butyllithium (16.42 cm3 of a 1.55M solution in n-hexane) was added dropwise to a stirred solution of 6-(4,5-di-iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone (5.0 g) in tetrahydrofuran (100 cm3) at -30° under nitrogen. After 30 minutes saturated aqueous ammonium chloride solution (20 cm3) was added, and the mixture was warmed to room temperature. The mixture was then basified with saturated sodium carbonate solution to pH 10 (approximately) and extracted with methanol:ethyl acetate (1:19 by volume, 100 cm3) and then methanol:dichloromethane (1:19 by volume, 2×200 cm3). The combined and dried (MgSO4) organic extracts were evaporated in vacuo to give a residue which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]). Elution with methanol:dichloromethane, 1:19 by volume, followed by combination and evaporation of the appropriate fractions gave a solid which was recrystallised from methanol/ethyl acetate to afford the title compound, (0.87 g), which was shown spectroscopically to be identical to the product of Preparation 4. Also eluted were fractions which when combined and evaporated afforded a solid, (2.28 g), which was shown to be a mixture of the title compound, 6-(5-iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone, and 6-(2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 6-(4,5-di-iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | 5.0 g | IC=1N=C(N(C1I)C=1C=C2C=CC(NC2=C(C1)C)=O)C | C14H11I2N3O
reactant | ammonium chloride | 20 cm3 | [Cl-].[NH4+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
product | 6-(4-Iodo-2-methylimidazol-1-yl)-8-methyl-2-(1H)-quinolone | 0.87 g | IC=1N=C(N(C1)C=1C=C2C=CC(NC2=C(C1)C)=O)C | C14H12IN3O
